US06864255B2
(4-Chloro-[1,3,5]triazin-2-yl)-[3,5-dimethoxy-4-(2-[1,2,3]triazol-1-yl-ethoxy)phenyl]amine (407 mg, 1.076 mmol) is combined with 2-chlorobenzimidazole (164 mg, 1.076 mmol) and K2CO3(179 mg, 1.292 mmol) in AcCN (10 ml) and heated at 65 to 75° C. for 4 to 20 hours. The mix is concentrated down under reduced pressure and treated with water. A white precipitate forms which is filtered and dried under vacuum, giving [4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-yl]-[3,5-dimethoxy-4-(2-[1,2,3]triazol-1-yl-ethoxy)phenyl]-amine.

reactant | (4-Chloro-[1,3,5]triazin-2-yl)-[3,5-dimethoxy-4-(2-[1,2,3]triazol-1-yl-ethoxy)phenyl]amine | 1.076 mmol, 407 mg | ClC1=NC(=NC=N1)NC1=CC(=C(C(=C1)OC)OCCN1N=NC=C1)OC | C15H16ClN7O3
reactant | 2-chlorobenzimidazole | 1.076 mmol, 164 mg | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 1.292 mmol, 179 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | AcCN | 10 ml | C(=O)(C)C#N | C3H3NO
product | [4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-yl]-[3,5-dimethoxy-4-(2-[1,2,3]triazol-1-yl-ethoxy)phenyl]-amine | ClC1=NC2=C(N1C1=NC(=NC=N1)NC1=CC(=C(C(=C1)OC)OCCN1N=NC=C1)OC)C=CC=C2 | C22H20ClN9O3
